US06288120B1
3-(3-Chloro-phenyl)-propionaldehyde
A solution of 1-chloro-3-iodobenzene (9.63 g, 40.38 mmol), allyl alcohol (5.86 g, 100.96 mmol), sodium bicarbonate (8.48 g, 100.96 mmol), tetrabutylammonium chloride (11.22 g, 40.38 mmol), and Pd(OAc)2 (317 mg, 1.413 mmol) in 25 mL DMF was stirred at 50° C. for 18 h. The mixture was cooled to room temperature, diluted with water, and the aqueous solution was washed with EtOAc. The organic solution was washed with water followed by brine, dried over MgSO4, filtered and concentrated in vacuo. The product was purified via flash chromatography on silica gel (9:1 hexanes:EtOAc) to afford the title compound as an oil (5.04 g).

reactant | 1-chloro-3-iodobenzene | 40.38 mmol, 9.63 g | ClC1=CC(=CC=C1)I | C6H4ClI
reactant | allyl alcohol | 100.96 mmol, 5.86 g | C(C=C)O | C3H6O
reactant | sodium bicarbonate | 100.96 mmol, 8.48 g | C([O-])(O)=O.[Na+]
catalyst | tetrabutylammonium chloride | 40.38 mmol, 11.22 g | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | Pd(OAc)2 | 1.413 mmol, 317 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 3-(3-Chloro-phenyl)-propionaldehyde | 5.04 g | ClC=1C=C(C=CC1)CCC=O | C9H9ClO
